Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Percocet / Iodine / nitroglycerin
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with a history of hiatal hernia s/p 
surgery, CAD s/p recent DES to LAD 2 weeks ago, chronic 
cryptogenic GI bleeding and chronic nausea, presenting with 
chest pain.  
 Patient reports that his recent past medical history is notable 
for devleoping SSCP, nausea and diaphoresis while doing a 
___ job in ___ two weeks ago. He presented to 
___ where he was taken emergently to the 
cath lab and received a Xience stent to the LAD.  
 That hospitalization was complicated by a GIB in the setting of 
starting anti-platelet medications. He was discharged after 5 
days. He returnede to ___ and was feeling unwell and so went 
to ___ where he was admitted for several days. At 
___ had stress test which showed no abnormality he thinks, 
but left AMA prior to endoscopy.  
 He has had intermittment SSCP with nausea and diaphoresis since 
his hospitalization. However at 6PM on day of presentation he 
developed recurrent SSCP that was non-radiating. He felt it as a 
heaviness and throbbing sensation. He had cold sweats and felt 
nauseated and vomited so went to the ED.  
 In the ED, initial vitals were: 8 97.0 66 130/79 18 100% RA  
 - Exam with patient initially complaining of chest heaviness 
that improved with morphine (patient has nitro allergy and 
refuses this med) and possible prominence over femoral artery at 
prior catheterization site.  
 - EKG with NSR@60bpm, NA/NI. submillimeter STD in lateral 
leads. No Q waves.  
 - Labs were significant for Hgb of 11.9 from 15.3 (___). TropT 
<0.01.  
 - Imaging revealed ___ with no pseudoaneurysm and CXR with 
Basilar atelectasis. Mild cardiomegaly.  
 - The patient was given:  
 ___ 21:09 PO Lorazepam 1 mg ___  
 ___ 21:29 IV Morphine Sulfate 2 mg ___  
 ___ 21:30 IV Ondansetron 4 mg ___  
 ___ 23:28 IV Morphine Sulfate 2 mg ___  
 Vitals prior to transfer were: 6 98.9 69 147/93 19 100% RA  
 Upon arrival to the floor, patient reports that he has very 
minimal ongoing chest pain but is comfortable and declines 
further meds. HE reports black stools off and on for several 
months, not worse or better over past week. Took aspirin today. 
Reports compliance with clopidigrel. No DOE, orthopnea, PND, 
palpitations. 
 
Past Medical History:
 ___ esophagus - s/p Nissen fundoplication  
 - hepatitis C,  
 - CAD s/p ?myocardial infarction (age ___,  
 --- Cardiac catheterization (once in ___ several years 
ago and once at ___ approximately five months ago) 
and most recently in ___ with DES to LAD  
 - OSA,  
 - h/o EtOH abuse,  
 - migraines,  
 - hiatal hernia,  
 - depression,  
 - GERD,  
 - erectile dysfunction  
 
Social History:
___
Family History:
 Notable for a son with melanoma and father with a history of 
melanoma and congestive heart failure.
 
Physical Exam:
PHYSICAL EXAM on admission:
 Vitals: 98.4 127/83 78 18 97RA  
 ___: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: CTAB, good airmovement.  
 Abdomen: Obese, distended, non-tender.  
 GU: No foley  
 Skin: + Skin tags at the axilla.  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: Alert oriented. No focal deficits, gait deferred. 

PHYSICAL EXAM on discharge:
Vitals: 98.4 127-149/80s 
 90.7 kg 
 ___: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM. 
 Neck: Supple, JVP not elevated, no submental and 
supraclavicular lymphadenopathy
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, bronchi 
or crackles 
 Abdomen: Obese, NABS, non distended, mild tenderness to 
palpation in the epigastric area.   
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
LABS
----------------

___ 09:15PM   ___ PTT-30.4 ___
___ 08:45PM   GLUCOSE-73 UREA N-6 CREAT-0.8 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-24 ANION GAP-17
___ 08:45PM   estGFR-Using this
___ 08:45PM   cTropnT-<0.01
___ 08:45PM   WBC-7.6 RBC-5.03 HGB-11.9*# HCT-39.9* MCV-79* 
MCH-23.7*# MCHC-29.8*# RDW-29.6* RDWSD-81.1*
___ 08:45PM   NEUTS-55.6 ___ MONOS-17.0* EOS-5.4 
BASOS-0.8 IM ___ AbsNeut-4.25 AbsLymp-1.60 AbsMono-1.30* 
AbsEos-0.41 AbsBaso-0.06
___ 08:45PM   PLT COUNT-364

IMAGING
---------------
CXR ___:
FINDINGS: 
PA and lateral views of the chest provided.   Lung volumes are 
low limiting
evaluation.  There is pleural thickening along the lateral right 
mid lung. 
There is bibasilar atelectasis without convincing evidence for 
pneumonia.  A retrocardiac opacity may reflect the presence of a 
hiatal hernia.  The heart is mildly enlarged.  No large effusion 
is seen.  No pneumothorax.  No edema or congestion.  Bony 
structures are intact.
IMPRESSION: 
Basilar atelectasis.  Mild cardiomegaly.  Possible small hiatal 
hernia.

EKG, ___:
Sinus rhythm. Normal ECG. No previous tracing available for 
comparison. 

FEMORAL VASCULAR US, ___:
FINDINGS: 
Limited assessment of the right groin was within normal limits 
at site of
abnormality reported by patient.  The right common femoral and 
greater
saphenous veins demonstrate normal compressibility and color 
flow.
 
Normal spectral Doppler of the right common femoral artery and 
right common
femoral vein were obtained.  No arteriovenous fistula or 
pseudoaneurysm.
 
IMPRESSION: 
 
No pseudoaneurysm.

 
Brief Hospital Course:
 Mr. ___ is a ___ with a history of hiatal hernia s/p 
surgery, CAD s/p recent DES to LAD on ___, chronic cryptogenic 
GI bleeding and chronic nausea, presenting with chest pain.  
 
# Chest pain: 
Patient presents with recurrent chest pain similar to his prior 
anginal equivalent. His chest pain has been intermittent since 
his last cath. ECG showed no changes, troponins were negative 
x1. Patient recently seen at ___ ___ 
with similar complaint. Exercise stress MIBI testing showed no 
evidence of ischemia at that time. Chest pain resolved upon 
admission. Patient with extremely poor venous access, which 
limited additional blood testing for troponin elevation, but 
given extremely low suspicion for chest pain (which was no 
longer present) of a cardiac etiology, aggressive measures to 
obtain a second set of troponins was deferred. Pt was continued 
on all of his home medications.
 
# Anemia: 
Patient reports chronic dark stools x several months. His Hgb is 
11.9. Records from ___ show Hb of 10.5 on ___ 
which is stable. His vitals are stable. He was hemodynamically 
stable and without evidence of acute bleeding. He was instructed 
to follow-up with established outpatient gastroenterologist, and 
appointment was provided.

CHRONIC:
# ___ esophagus - s/p ___ fundoplication:  
 - continue PPI  
# Hypertension: well controlled. Continue atenolol and 
lisinopril.  
# Hepatitis C: trial anti-virals in the past. Followed by 
___.  
 - f/u as outpatient  
# CAD: continue aspirin/plavix/atorvastatin/atenolol  
# OSA: continue CPAP  
# depression: Fluoxetine 40 mg PO DAILY  
# Conjunctivitis: continue eye drops  

TRANSITIONAL ISSUES:
- continue to monitor anemia; may need outpatient endoscopy to 
evaluate further
- establish consistent cardiology follow-up 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zylet (tobramycin-lotepred) 0.3-0.5 % ophthalmic BID 
2. Clopidogrel 75 mg PO DAILY 
3. Fluoxetine 40 mg PO DAILY 
4. Atenolol 12.5 mg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Lorazepam 1 mg PO TID 
7. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
8. Ondansetron 4 mg PO Q8H:PRN pain 
9. Atorvastatin 40 mg PO QPM 
10. Ferrous Sulfate 325 mg PO BID 
11. Nasonex (mometasone) 50 mcg/actuation nasal DAILY 
12. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 12.5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO BID 
5. Fluoxetine 40 mg PO DAILY 
6. Lisinopril 2.5 mg PO DAILY 
7. Lorazepam 1 mg PO TID 
8. Aspirin 81 mg PO DAILY 
9. Nasonex (mometasone) 50 mcg/actuation nasal DAILY 
10. Ondansetron 4 mg PO Q8H:PRN pain 
11. Zylet (tobramycin-lotepred) 0.3-0.5 % ophthalmic BID 
12. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
with chest pain, which was initially concerning since you 
recently had a stent placed. Fortunately, your bloodwork, ECGs 
and recent stress test showed no evidence of a heart attack or a 
problem with your stent. This is good news! We are concerned 
that your pain may be related to gastroesophageal reflux 
disease. We provided you with  medications which can help 
control your reflux symptoms, but the next step is to follow-up 
with your outpatient gastroenterologist, Dr. ___. We have 
made an appointment for you to do this.

Since you have a new stent, it is important to take aspirin and 
Plavix every single day, and to not miss even ___ single dose.

We wish you the best!
- Your ___ Team
 
Followup Instructions:
___